US05877340
Example B3: Preparation of 4-aminobenzaldoxime
8.3 g of 4-nitrobenzaldoxime together with 100 ml of tetrahydrofuran are initially introduced into a stirred autoclave. 50 mg of FeCl2.4 H2O and 0.2 g of the catalyst from Example A1 are added to the solution. Hydrogenation is carried out at 120° C. and a hydrogen pressure of 20×105 pascals. When hydrogenation is complete, the mixture is cooled to room temperature, the reactor is rendered inert with nitrogen and the catalyst is filtered off. The solvent is distilled off to give, after chromatographic purification, 3.5 g (51% of theory) of 4-aminobenzaldoxime.

reactant | 4-nitrobenzaldoxime | 8.3 g | [N+](=O)([O-])C1=CC=C(C=NO)C=C1 | C7H6N2O3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | H2O | O | H2O
product | 4-aminobenzaldoxime | NC1=CC=C(C=NO)C=C1 | C7H8N2O
